US09382197B2
To a 2-dram vial containing tert-butyl 4-{(1R)-1-[(1-benzofuran-2-ylcarbonyl)amino]ethyl}benzoate was added DCM (2.5 mL), and trifluoroacetic acid (0.28 mL, 3.60 mmol). The mixture was stirred at rt for 6 h then evaporated to give an oil residue. To the residue was added HATU (0.10 g, 0.27 mmol), triethylamine (0.25 mL, 1.80 mmol), and DCM (2.5 mL). After stirring at rt for 30 min, O-(tert-butyldimethylsilyl)hydroxylamine (0.053 g, 0.360 mmol) was added. The mixture was stirred at rt for 2 h, then the solvent was completely removed to give a sticky brown oil. To this oil residue was added hydrochloric acid (4.0 mL, 1% v/v in IPA). After stirring at rt for 30 min, the solvent was evaporated to dryness to give a solid. To the solid was then added DMSO (1.1 mL). The solution was filtered and purified by Gilson prep-HPLC [25-50% MeCN—H2O] to give N-((1R)-1-{4-[(hydroxyamino)carbonyl]phenyl}ethyl)-1-benzofuran-2-carboxamide (0.0148 g, 24%) as a white solid. LC-MS: (FA) ES+ 325; 1H NMR (Methanol-d4, 400 MHz) δ 7.71 (m, 3H), 7.60 (d, J=8.5 Hz, 1H), 7.50 (m, 3H), 7.45 (t, J=7.0 Hz, 1H), 7.31 (t, J=7.8 Hz, 1H), 5.30 (q, J=7.2 Hz, 1H), 1.61 (d, J=7.0 Hz, 3H).

reactant | tert-butyl 4-{(1R)-1-[(1-benzofuran-2-ylcarbonyl)amino]ethyl}benzoate | O1C(=CC2=C1C=CC=C2)C(=O)N[C@H](C)C2=CC=C(C(=O)OC(C)(C)C)C=C2 | C22H23NO4
reactant | trifluoroacetic acid | 3.60 mmol, 0.28 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | HATU | 0.27 mmol, 0.10 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 1.80 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | O-(tert-butyldimethylsilyl)hydroxylamine | 0.360 mmol, 0.053 g | [Si](C)(C)(C(C)(C)C)ON | C6H17NOSi
reactant | hydrochloric acid | 4.0 mL | Cl | ClH
solvent | DMSO | 1.1 mL | CS(=O)C | C2H6OS
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | N-((1R)-1-{4-[(hydroxyamino)carbonyl]phenyl}ethyl)-1-benzofuran-2-carboxamide | 0.0148 g, 24% | ONC(=O)C1=CC=C(C=C1)[C@@H](C)NC(=O)C=1OC2=C(C1)C=CC=C2 | C18H16N2O4
